US07754759B2
To a solution of [7-(3-fluoro-benzenesulfonyl)-chroman-2-yl]-methanol (10.0 g, 0.032 mol) in 200 mL of methylene chloride at −10° C. was added methanesulfonyl chloride (2.76 mL, 0.036 mol) and triethylamine (4.95 mL, 0.036 mol). The reaction mixture was stirred for one hour at −10° C. and was then quenched by addition of 10% aqueous NaHCO3. The organic layer was separated, washed with water and brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (hexanes:EtOAc 85:15) to give 11.35 g (92%) of methanesulfonic acid (R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-ylmethyl ester.

reactant | [7-(3-fluoro-benzenesulfonyl)-chroman-2-yl]-methanol | 0.032 mol, 10.0 g | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2CCC(OC2=C1)CO | C16H15FO4S
reactant | methanesulfonyl chloride | 0.036 mol, 2.76 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.036 mol, 4.95 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid (R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-ylmethyl ester | 11.35 g, 92% | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)COS(=O)(=O)C | C17H17FO6S2
